US05824691
1N-Sodium hydroxide solution (1.5 ml) was added to a mixture of methyl 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoate (0.5 g) and dioxane (20 ml), and the mixture was stirred for 3 days at ambient temperature. The reaction mixture was poured into the mixture of ethyl acetate and water and the separated aqueous layer was adjusted to pH 1 with 6N-hydrochloric acid. The mixture was extracted with ethyl acetate and extract was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was triturated with n-hexane to give 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoic acid (0.24 g).

reactant | Sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | methyl 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoate | 0.5 g | C(C1=CC=CC=C1)OC(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C20H17NO4
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoic acid | 0.24 g | C(C1=CC=CC=C1)OC(=O)C=1N(C=CC1)C=1C=C(C(=O)O)C=CC1 | C19H15NO4
